US07691882B2
3-(3-Biphenyl-3-ylmethyl-isoxazol-5-yl)-pyridin-2-ylamine
To a mixture of biphenyl-3-yl-acetohydroximoyl chloride (120 mg) described in Manufacturing Example 85-1-3 and tetrahydrofuran (6 mL) were added 3-ethynyl-pyridin-2-ylamine (28 mg, 0.24 mmol) described in Manufacturing Example 1-2-3 and triethylamine (200 μL, 1.4 mmol) at room temperature, which was stirred for 2.5 hours at 55° C. The reaction mixture was cooled to room temperature and water was added at that temperature, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound (27 mg, 34%).

reactant | biphenyl-3-yl-acetohydroximoyl chloride | 120 mg | C1(=CC(=CC=C1)CC(=NO)Cl)C1=CC=CC=C1 | C14H12ClNO
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2-ylamine | 0.24 mmol, 28 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.4 mmol, 200 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3-(3-Biphenyl-3-ylmethyl-isoxazol-5-yl)-pyridin-2-ylamine | 27 mg, 34% | C1(=CC(=CC=C1)CC1=NOC(=C1)C=1C(=NC=CC1)N)C1=CC=CC=C1 | C21H17N3O
